US04213984
11-{[4-(1-Adamantyl-methyl)-1-piperazinyl]acetyl}-5,11-dihydro-6-H-pyrido[2,3-b][1,4]benzodiazepin-6-one
4.4 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 1.8 gm of sodium carbonate and 3.75 gm of 1-(1-adamantyl-methyl-piperazine were reacted in 80 ml of absolute ethanol and worked up in analogy to Example 1. After recrystallization from a mixture of n-propanol and dimethylformamide; M.p.: 284°-287° C. (decomposition).

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 4.4 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | sodium carbonate | 1.8 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-adamantyl-methyl-piperazine | C12(CC3CC(CC(C1)C3)C2)C2N(CCNC2)C | C15H26N2
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 11-{[4-(1-Adamantyl-methyl)-1-piperazinyl]acetyl}-5,11-dihydro-6-H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C12(CC3CC(CC(C1)C3)C2)CN2CCN(CC2)CC(=O)N2C3=C(NC(C1=C2C=CC=C1)=O)C=CC=N3 | C29H35N5O2
